US06051712
In an analogous manner to that described in Example 71(b), from benzyl (3RS,4RS)-4-(4-chloro-phenylsulphanyl)-3-hydroxy-piperidine-1-carboxylate by alkylation with 2-bromomethyl-naphthalene there was obtained benzyl (3RS,4RS)-4-(4-chloro-phenylsulphanyl)-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate as a colourless solid; MS: 518 (M+H)+.

reactant | benzyl (3RS,4RS)-4-(4-chloro-phenylsulphanyl)-3-hydroxy-piperidine-1-carboxylate | ClC1=CC=C(C=C1)SC1C(CN(CC1)C(=O)OCC1=CC=CC=C1)O | C19H20ClNO3S
reactant | 2-bromomethyl-naphthalene | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
product | benzyl (3RS,4RS)-4-(4-chloro-phenylsulphanyl)-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate | ClC1=CC=C(C=C1)SC1C(CN(CC1)C(=O)OCC1=CC=CC=C1)OCC1=CC2=CC=CC=C2C=C1 | C30H28ClNO3S
